US08030438B2
(8) Synthesis of 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene
In DMF, 0.0971 g (0.159 mmols) of 2,5-diiodo-3,4-bis(diethoxyphosphoryl)thiophene and 0.0346 g (0.349 mmols) of commercially available copper(I) chloride were dissolved, to which 0.1744 g (0.383 mmols) of tributylstannylbithiophene was added at room temperature. Thereafter, the reaction mixture was heated to 80° C. and stirred for 12 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a 0.6 M hydrochloric acid aqueous solution was added, followed by extraction of the resulting product with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substance 1. The results are shown in Table 12.

reactant | 2,5-diiodo-3,4-bis(diethoxyphosphoryl)thiophene | 0.159 mmols, 0.0971 g | IC=1SC(=C(C1P(=O)(OCC)OCC)P(=O)(OCC)OCC)I | C12H20I2O6P2S
reactant | tributylstannylbithiophene | 0.383 mmols, 0.1744 g | C(CCC)[Sn](CCCC)(CCCC)C1=C(SC=C1)C=1SC=CC1
reactant | hydrochloric acid | 0.6 M | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper(I) chloride | [Cu]Cl
product | 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene | C(C)OP(=O)(OCC)C1=C(SC(=C1P(=O)(OCC)OCC)C=1SC(=CC1)C=1SC=CC1)C1=CC=C(S1)C=1SC=CC1 | C28H30O6P2S5
